US04126611
Hexahydro-2-[(2-{2-thienyl}cyclopentyl)imino]azepine hydrochloride
By the procedure described in U.S. Pat. No. 2,520,516 (1950) 2-(2-thienyl)cyclopentylamine hydrochloride, M.P. 168°-172° C., was prepared and substituted for cis-2-phenylcyclopentylamine hydrochloride in Example 1 to give the desired product, M.P. 144°-151° C.

reactant | 2-(2-thienyl)cyclopentylamine hydrochloride | Cl.S1C(=CC=C1)C1C(CCC1)N
reactant | cis-2-phenylcyclopentylamine hydrochloride | Cl.C1(=CC=CC=C1)[C@@H]1[C@@H](CCC1)N
product | Hexahydro-2-[(2-{2-thienyl}cyclopentyl)imino]azepine hydrochloride | Cl.S1C(=CC=C1)C1C(CCC1)N=C1NCCCCC1 | InChI=1S/C15H22N2S.ClH/c1-2-9-15(16-10-3-1)17-13-7-4-6-12(13)14-8-5-11-18-14;/h5,8,11-13H,1-4,6-7,9-10H2,(H,16,17);1H
